US04192890
A solution of 17 g of 3-bromomethyl-4'-chlorobenzophenone in 75 cc of dioxane at 70° C. was added to the solution of 26.5 g of potassium cyanide in 75 cc of water and the mixture was refluxed with stirring for 6 hours. After cooling, 500 cc of ether were added to the mixture and the aqueous phase was decanted off. The organic phase was washed with water until the wash waters were neutral, dried over magnesium sulfate, treated with activated carbon, filtered and evaporated to dryness under reduced pressure. The residue was crystallized from methanol to obtain 9.61 g of 3-p-chlorobenzoyl phenyl acetonitrile melting at 86° to 90° C.

reactant | 3-bromomethyl-4'-chlorobenzophenone | 17 g | BrCC=1C=C(C(=O)C2=CC=C(C=C2)Cl)C=CC1 | C14H10BrClO
reactant | potassium cyanide | 26.5 g | [C-]#N.[K+]
reactant | ether | 500 cc | CCOCC | C4H10O
solvent | dioxane | 75 cc | O1CCOCC1 | C4H8O2
solvent | water | 75 cc | O | H2O
product | 3-p-chlorobenzoyl phenyl acetonitrile | 9.61 g | ClC1=CC=C(C(=O)C=2C=C(C=CC2)CC#N)C=C1 | C15H10ClNO
